US05332757
Using an analogous procedure to that described in Example 15, 4'-[4-(4-methoxytetrahydropyran-4-yl)thiazol-2-ylthio]acetophenone was reacted with hydroxylamine hydrochloride to give (E)-4'-[4-(4-methoxytetrahydropyran-4-yl)thiazol-2-ylthio]acetophenone oxime in 90% yield, m.p. 146° C.;

reactant | 4'-[4-(4-methoxytetrahydropyran-4-yl)thiazol-2-ylthio]acetophenone | COC1(CCOCC1)C=1N=C(SC1)SC1=CC=C(C=C1)C(C)=O | C17H19NO3S2
reactant | hydroxylamine hydrochloride | Cl.NO
product | (E)-4'-[4-(4-methoxytetrahydropyran-4-yl)thiazol-2-ylthio]acetophenone oxime | 90% yield | COC1(CCOCC1)C=1N=C(SC1)SC1=CC=C(C=C1)/C(/C)=N/O | C17H20N2O3S2
